US07589196B2
0.498 g (2.53 mmol) of ethyl benzoylacetate, 5 ml of degassed ethanol and 60 μl of 1N HCl are introduced in succession into a Schlenk vessel filled with argon. This solution and the catalyst solution from Example C2 are then transferred in succession by means of a steel capillary into a 50 ml steel autoclave filled with argon. The s/c (substrate/catalyst) ratio is 200. The autoclave is closed and a pressure of 50 bar is set using 4 flushing cycles (pressurization with 20 bar of hydrogen). The autoclave is then heated to 80° C., and after 30 minutes the reaction pressure is set to 80 bar. The autoclave is stirred for 21 hours. The heating is subsequently switched off and the autoclave is cooled to room temperature. After depressurization, a reddish reaction solution is isolated. The conversion is >98% (determined by means of GC and 1H-NMR). Removal of the solvent on a rotary evaporator gives a quantitative yield of ethyl (S)-3-hydroxyphenylpropionate having an enantiomeric purity of 98% ee (determined by means of HPLC; column: Chiralcel OD-H, 250 mm, hexane/i-propanol 93:7, flow rate: 0.8 ml/min.).

reactant | ethyl benzoylacetate | 2.53 mmol, 0.498 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | HCl | 1N, 60 μl | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | hexane i-propanol | CCCCCC.C(C)(C)O
catalyst | Ruthenium | [Ru] | Ru
product | ethyl (S)-3-hydroxyphenylpropionate | quantitative yield | OC=1C=C(C=CC1)[C@@H](C(=O)OCC)C | C11H14O3
